US07411093B2
Ethyl-cis-2-amino-1-cyclohexanecarboxylate hydrochloride (750 mg) was suspended in 1 N NaOH (pH =12). The aqueous layer was extracted with CH2Cl2, washed with brine, dried over Na2SO4 and evaporated to give the crude ethyl-cis-2-amino- 1-cyclohexanecarboxylate (570 mg).

reactant | Ethyl-cis-2-amino-1-cyclohexanecarboxylate hydrochloride | 750 mg | Cl.C(C)OC(=O)[C@H]1[C@H](CCCC1)N
solvent | NaOH | 1 N | [OH-].[Na+]
product | ethyl-cis-2-amino- 1-cyclohexanecarboxylate | 570 mg | C(C)OC(=O)[C@H]1[C@H](CCCC1)N | C9H17NO2
